US04963553
4.5-Dihydro-4-[[4-(phenylmethyl)-1-piperazinyl]acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1.5-a]pyrimidine-3-carboxylic acid, ethyl ester. dihydrochloride
A mixture of 2.065 g of 4-(chloroacetyl)4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxylic acid, ethyl ester, 535 mg of [1,8-bis(dimethylamino)naphthalene, N,N,N',N'-tetramethyl-1,8-naphthalenediamine], 2.88 g of N-benzylpiperazine and 100 ml of dry ether was stirred at room temperature overnight and then filtered. The filtrate was evaporated, the residue dissolved in 300 ml of ether and 1 ml of concentrated hydrochloric acid in 50 ml of water was added. The solid was collected, giving 845 mg of the desired product, mp 228°-230° C.

reactant | 4-(chloroacetyl)4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxylic acid, ethyl ester | 2.065 g | ClCC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C(=O)OCC | C18H15ClF3N3O3
reactant | 1,8-bis(dimethylamino)naphthalene | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | N-benzylpiperazine | 2.88 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4.5-Dihydro-4-[[4-(phenylmethyl)-1-piperazinyl]acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1.5-a]pyrimidine-3-carboxylic acid, ethyl ester. dihydrochloride | 845 mg | Cl.Cl.C1(=CC=CC=C1)CN1CCN(CC1)CC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C(=O)OCC | InChI=1S/C29H30F3N5O3.2ClH/c1-2-40-28(39)24-18-33-37-25(22-9-6-10-23(17-22)29(30,31)32)11-12-36(27(24)37)26(38)20-35-15-13-34(14-16-35)19-21-7-4-3-5-8-21;;/h3-11,17-18H,2,12-16,19-20H2,1H3;2*1H
